US06610711B2
3-Ethyl-5-((methylsulfonyl)oxy)-3-(3-nitrophenyl)pentyl methanesulfonate
To a solution of 3-ethyl-3-(3-nitrophenyl)-1,5-pentanediol (Preparation 61, 661 mg, 2.27 mmol) in toluene (24 ml) was added triethylamine (0.76 ml, 5.43 mmol) followed by methanesulfonyl chloride (0.42 ml, 5.4 mmol). The reaction mixture was stirred at room temperature under nitrogen for 18 h. The reaction mixture was poured onto water (10 ml), the phases were separated and the aqueous layer was extracted with dichloromethane (10 ml). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to give the title compound as an oil which was used without further purification (850 mg, 81% crude yield).

reactant | 3-ethyl-3-(3-nitrophenyl)-1,5-pentanediol | 2.27 mmol, 661 mg | C(C)C(CCO)(CCO)C1=CC(=CC=C1)[N+](=O)[O-] | C13H19NO4
reactant | triethylamine | 5.43 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.4 mmol, 0.42 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Ethyl-5-((methylsulfonyl)oxy)-3-(3-nitrophenyl)pentyl methanesulfonate | CS(=O)(=O)OCCC(CCOS(=O)(=O)C)(C1=CC(=CC=C1)[N+](=O)[O-])CC | C15H23NO8S2
